US07314888B1
In 3 ml of ethanol is dissolved 0.55 g of ethyl 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-2-methylpropanoate, to which is added 1.5 ml of 5 mol/L solution of sodium hydroxide. The mixture thus obtained is stirred at ambient temperature for two hours. Chloroform and water are added to the reaction mixture, pH is adjusted to 2 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=2:1) to obtain 0.45 g of 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-2-methylpropanoic acid as a white solid product.

reactant | ethyl 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-2-methylpropanoate | 0.55 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CC(C(=O)OCC)C)OCC(C)C)C=CC(=C1)OCC(C)C | C31H44O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-[5-(2,4-diisobutoxybenzoyl)-2-isobutoxyphenyl]-2-methylpropanoic acid | 0.45 g | C(C(C)C)OC1=C(C(=O)C=2C=CC(=C(C2)CC(C(=O)O)C)OCC(C)C)C=CC(=C1)OCC(C)C | C29H40O6
